US07429583B2
a) (5-methoxy-2-nitro-phenyl)-methyl-amine
83.5 mL (167.0 mmol) of a 2 molar solution of methylamine in THF are added dropwise to 14.3 g (83.56 mmol) 3-fluoro-4-nitro-anisol and 12.71 g (92.02 mmol) potassium carbonate in 200 mL dichloromethane. The mixture is stirred overnight and then combined with water. The organic phase is washed successively with water and ammonium chloride solution, dried and evaporated down. The yellow solid remaining is stirred with hexane. Yield: 12.7 g (84%); mass spectroscopy: [M+H]+=183.

reactant | methylamine | CN | CH5N
reactant | 3-fluoro-4-nitro-anisol | 83.56 mmol, 14.3 g | FC=1C=C(C=CC1[N+](=O)[O-])OC | C7H6FNO3
reactant | potassium carbonate | 92.02 mmol, 12.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (5-methoxy-2-nitro-phenyl)-methyl-amine | COC=1C=CC(=C(C1)NC)[N+](=O)[O-] | C8H10N2O3
